### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Enriched): the bicategory of `V`-enriched categories

### PR DESCRIPTION
**Pull request by javra**
This provides an instantiation of `V`-enriched categories as a bicategory. It also replaces the old definition of the category of enriched functors by a category that uses natural transformations between `F.forget` and `G.forget` as morphisms, as opposed to the previously used notion of enriched natural transformations.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Enriched/Basic.lean [hunk 1]
```diff
@@ -63,7 +63,7 @@ class EnrichedCategory (C : Type u₁) where
   assoc (W X Y Z : C) : (α_ _ _ _).inv ≫ comp W X Y ▷ _ ≫ comp W Y Z =
     _ ◁ comp X Y Z ≫ comp W X Z := by aesop_cat
 
-@[inherit_doc EnrichedCategory.Hom] notation X " ⟶[" V "] " Y:10 => (EnrichedCategory.Hom X Y : V)
+@[inherit_doc EnrichedCategory.Hom] notation3 X " ⟶[" V "] " Y:10 => (EnrichedCategory.Hom X Y : V)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Enriched/Basic.lean]: I don’t know the difference between notation and notation3 very well; what is the motivation behind this change?

File: Mathlib/CategoryTheory/Enriched/Basic.lean [hunk 2]
```diff
@@ -329,12 +343,50 @@ def EnrichedFunctor.forget {C : Type u₁} {D : Type u₂} [EnrichedCategory W C
...
+/-- To construct an isomorphism between enriched functors `F` and `G`, it suffices to construct
+a natural isomorphism between `F.forget` and `G.forget`. -/
+@[simps]
+def isoMk {F G : EnrichedFunctor W C D} (h : F.forget ≅ G.forget) : F ≅ G where
+  hom := h.hom
+  inv := h.inv
+  hom_inv_id := h.hom_inv_id
+  inv_hom_id := h.inv_hom_id
+
+lemma hom_ext {F G : EnrichedFunctor W C D} {α β : F ⟶ G}
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Enriched/Basic.lean]:
```suggestion
@[ext]
lemma hom_ext {F G : EnrichedFunctor W C D} {α β : F ⟶ G}
```
This way all the `refine EnrichedFunctor.hom_ext fun X => ?_` become `ext`.

File: Mathlib/CategoryTheory/Enriched/Basic.lean [hunk 3]
```diff
@@ -314,13 +324,17 @@ lemma EnrichedFunctor.ext {C : Type u₁} {D : Type u₂} [EnrichedCategory V C]
 
 section
 
-variable {W : Type (v + 1)} [Category.{v} W] [MonoidalCategory W]
+variable {W : Type v'} [Category.{w'} W] [MonoidalCategory W]
+  {C : Type u₁} [EnrichedCategory W C]
+  {D : Type u₂} [EnrichedCategory W D]
+  {E : Type u₃} [EnrichedCategory W E]
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Enriched/Basic.lean:341]:
```suggestion
```

File: Mathlib/CategoryTheory/Enriched/Basic.lean [hunk 4]
```diff
@@ -329,12 +343,50 @@ def EnrichedFunctor.forget {C : Type u₁} {D : Type u₂} [EnrichedCategory W C
...
+`Functor.id`. -/
+@[simps!]
+def forgetId : (EnrichedFunctor.id W C).forget ≅ Functor.id _ :=
+  NatIso.ofComponents (fun _ => Iso.refl _) (fun f => by simp [forget])
+
+/-- Enriched functors form a category with the morphisms between functors `F` and `G` being the
+natural transformations `F.forget ⟶ G.forget`. -/
+@[simps]
+instance category : Category (EnrichedFunctor W C D) where
+  Hom F G := F.forget ⟶ G.forget
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Enriched/Basic.lean]: I feel a bit uneasy about this. This is very prone to defeq abuse and might potentially cause confusion for lean when trying to recognize morphisms (`α : F.forget ⟶ G.forget` will be infered as `_ ⟶ _` in two different categories). The previous definition with `EnrichedNatTrans` was so that no confusion was possible. You already see this in `EnrichedCat.lean` where you have to define the whiskering where you have to put `.forget`s everywhere in the constructions and hyps. I think the hom-types here should be made one-field structures to prevent any form of abuse. This is slightly more verbose but in my experience this is also more robust. (Potentially, this could also help auto-params in the construction of the bicategory of enriched categories).

File: Mathlib/CategoryTheory/Enriched/EnrichedCat.lean [hunk 5]
```diff
@@ -0,0 +1,148 @@
...
+
+open EnrichedCategory ForgetEnrichment
+
+variable {C D E E' : EnrichedCat.{w, v, u} V}
+
+/-- Whisker a `V`-enriched natural transformation on the left. -/
+@[simps!]
+def whiskerLeft
+    (F : EnrichedFunctor V C D) {G H : EnrichedFunctor V D E} (α : G.forget ⟶ H.forget) :
+    (F.comp V G).forget ⟶ (F.comp V H).forget :=
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Enriched/EnrichedCat.lean]: Here and below, I think it would be nicer if the signature could be 
```lean
def whiskerLeft (F : EnrichedFunctor V C D) {G H : EnrichedFunctor V D E} (α : G ⟶ H) :
    F.comp V G ⟶ F.comp V H :=
```
I think my suggestion about making homs a one-field struct might help with that.

File: Mathlib/CategoryTheory/Enriched/Basic.lean (hunk 1 above)
Comment (javra) [reply Mathlib/CategoryTheory/Enriched/Basic.lean]: With `notation` it didn't get picked up by the pretty printer, see [this](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/implicit.20argument.20in.20notation.20rhs) Zulip thread

File: Mathlib/CategoryTheory/Enriched/Basic.lean (hunk 4 above)
Comment (javra) [reply Mathlib/CategoryTheory/Enriched/Basic.lean]: True, how about I just actually redefine `EnrichedNatTrans` to be this wrapper then. We can than expose it as a special case of `GradedNatTrans` either in this PR or whenever we need it.

File: Mathlib/CategoryTheory/Monoidal/Category.lean [hunk 6]
```diff
@@ -279,6 +279,34 @@ theorem tensorHom_def' {X₁ Y₁ X₂ Y₂ : C} (f : X₁ ⟶ Y₁) (g : X₂ 
...
+  rw [tensor_comp]
+  simp
+
+@[reassoc]
+theorem tensorHom_comp_whiskerRight {V W X Y Z : C} (f : X ⟶ Y) (g : Y ⟶ Z) (h : V ⟶ W) :
+    (f ⊗ₘ h) ≫ (g ▷ W) = (f ≫ g) ⊗ₘ h := by
+  nth_rw 2 [← comp_id h]
+  rw [tensor_comp]
+  simp
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Category.lean]:
```suggestion
@[reassoc]
theorem whiskerLeft_comp_tensorHom {V W X Y Z : C} (f : V ⟶ W) (g : X ⟶ Y) (h : Y ⟶ Z) :
    (V ◁ g) ≫ (f ⊗ₘ h) = f ⊗ₘ (g ≫ h) := by
  simp [tensorHom_def']

@[reassoc]
theorem whiskerRight_comp_tensorHom {V W X Y Z : C} (f : X ⟶ Y) (g : Y ⟶ Z) (h : V ⟶ W) :
    (f ▷ V) ≫ (g ⊗ₘ h) = (f ≫ g) ⊗ₘ h := by
  simp [tensorHom_def]

@[reassoc]
theorem tensorHom_comp_whiskerLeft {V W X Y Z : C} (f : V ⟶ W) (g : X ⟶ Y) (h : Y ⟶ Z) :
    (f ⊗ₘ g) ≫ (W ◁ h) = f ⊗ₘ (g ≫ h) := by
  simp [tensorHom_def]

@[reassoc]
theorem tensorHom_comp_whiskerRight {V W X Y Z : C} (f : X ⟶ Y) (g : Y ⟶ Z) (h : V ⟶ W) :
    (f ⊗ₘ h) ≫ (g ▷ W) = (f ≫ g) ⊗ₘ h := by
  simp [tensorHom_def, whisker_exchange]

```
Small golfs

File: Mathlib/CategoryTheory/Enriched/Basic.lean [hunk 7]
```diff
@@ -402,87 +431,37 @@ attribute [reassoc] GradedNatTrans.naturality
 
 /-- A natural transformation between two enriched functors is a `𝟙_ V`-graded natural
 transformation. -/
-abbrev EnrichedNatTrans (F G : EnrichedFunctor V C D) := GradedNatTrans Center.tensorUnit F G
-
-namespace EnrichedNatTrans
+structure EnrichedNatTrans (F G : EnrichedFunctor V C D) where
+  /-- The underlying natural transformation of an enriched transformation. -/
+  (out : F.forget ⟶ G.forget)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Enriched/Basic.lean]:
```suggestion
  out : F.forget ⟶ G.forget
```

File: Mathlib/CategoryTheory/Enriched/EnrichedCat.lean [hunk 8]
```diff
@@ -0,0 +1,121 @@
...
+
+open EnrichedCategory ForgetEnrichment
+
+variable {V} {C D E E' : EnrichedCat.{w, v, u} V}
+
+/-- Whisker a `V`-enriched natural transformation on the left. -/
+@[simps!]
+def whiskerLeft
+    (F : EnrichedFunctor V C D) {G H : EnrichedFunctor V D E} (α : G ⟶ H) :
+    (F.comp V G) ⟶ (F.comp V H) :=
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Enriched/EnrichedCat.lean]:
```suggestion
    F.comp V G ⟶ F.comp V H :=
```
There are similar cases of unneeded parentheses below. 
(Side note: once this is merged, I will make `V` implicit in `EnrichedFunctor.comp`, so that we can write `F.comp G` and `F.comp H`; the type of `F` is enough to infer `V` and this just adds verbosity).

File: Mathlib/CategoryTheory/Enriched/EnrichedCat.lean [hunk 9]
```diff
@@ -0,0 +1,121 @@
...
+instance str (C : EnrichedCat.{w, v, u} V) : EnrichedCategory.{w, v, u} V C :=
+  Bundled.str C
+
+/-- Construct a bundled `EnrichedCat` from the underlying type and the typeclass. -/
+def of (C : Type u) [EnrichedCategory.{w} V C] : EnrichedCat.{w, v, u} V :=
+  Bundled.of C
+
+open EnrichedCategory ForgetEnrichment
+
+variable {V} {C D E E' : EnrichedCat.{w, v, u} V}
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Enriched/EnrichedCat.lean]: Currently, definitions in this section eat bundled objects. I think it would be better to first make `C D E E'` regular types, equiped with an `EnrichedCategory` instance (with suitably general universes). This would give a general definition of the relevant whiskerings, associators and left/right unitors for general unbundled enriched functors, and only then it should be "bundled" as constructions in `EnrichedCat`. This would follow more closely the current design for functors of categories.
I missed this during first review, so apologies for bringing it up this late.

**Review by robin-carlier — COMMENTED** [review]
Apologies for the delay in responding. Now I think the main thing that should be changed is the fact that the bicategorical structure definitions (whiskering, associators, left unitors) are only defined when the objects are bundled (and hence in the same universes), while in practice it’d be nice to have them when dealing with unbundled objects as well (same as with ordinary categories, functors, and natural transformations). The unbundled definitions would give the bundled ones quite easily I think.

File: Mathlib/CategoryTheory/Enriched/EnrichedCat.lean (hunk 8 above)
Comment (javra) [reply Mathlib/CategoryTheory/Enriched/EnrichedCat.lean]: I think there's generally a few `V`s that can be made implicit.

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
